US05342846
3-(4,5-Dimethyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride
10% Pd/C (0.5 g) was added to a solution of 0.86 g of N-benzyl-3-(4 , 5-dimethyl-1,2,3-triazol-1-yl) pyrrolidine in 50 ml of methanol, and 2 ml of 1N hydrochloric acid. The suspension was then hydrogenated at 50 psi pressure overnight. The Pd/C was removed by filtration through celite and the supernatant was evaporated to dryness and crystallized from methanol-ether to yield 0.5 g of the desired product. 1H NMR (D2O) δ: 5.75-5.6 (m, 1H), 4.14-3.9 (m, 2H), 3.8-3.6 (m, 2H), 2.86-2.4 (m, 8H, two singlets at 2.49 and 2.4).

reactant | N-benzyl-3-(4 , 5-dimethyl-1,2,3-triazol-1-yl) pyrrolidine | 0.86 g | C(C1=CC=CC=C1)N1CC(CC1)N1N=NC(=C1C)C | C15H20N4
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 3-(4,5-Dimethyl-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 0.5 g | Cl.CC=1N=NN(C1C)C1CNCC1 | InChI=1S/C8H14N4.ClH/c1-6-7(2)12(11-10-6)8-3-4-9-5-8;/h8-9H,3-5H2,1-2H3;1H
